US07618961B2
Ethyl (2-{[(4,5-dichloro-2-thienyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 2,3-dichlorothiophene-5-sulfonyl chloride as described in the synthetic METHOD B to give a white-yellow solid (36.9 mg) with purity >90%. MS (pos) m/z 401.1, 403.1.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 2,3-dichlorothiophene-5-sulfonyl chloride | ClC=1SC(=CC1Cl)S(=O)(=O)Cl | C4HCl3O2S2
product | Ethyl (2-{[(4,5-dichloro-2-thienyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | ClC=1C=C(SC1Cl)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C11H10Cl2N2O4S3
